US08084644B2
Isopropyl N-phenyl-3-(trimethylsilyl)thiopropioimidate (1.6 g) was dissolved to methanol (50 ml), small amount of potassium carbonate was added thereto under ice-cooling, then stirred for 30 minutes. The reaction solution was poured into aqueous solution of sodium chloride, and it was extracted with ethyl acetate. The organic layer was washed with water, dried and distilled off the solvent to obtain isopropyl N-phenyl-thiopropioimidate (1.1 g).

reactant | Isopropyl N-phenyl-3-(trimethylsilyl)thiopropioimidate | 1.6 g | C1(=CC=CC=C1)N=C(CC[Si](C)(C)C)SC(C)C | C15H25NSSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | isopropyl N-phenyl-thiopropioimidate | 1.1 g | C1(=CC=CC=C1)N=C(CC)SC(C)C | C12H17NS
